US07696223B2
b) [(2-tert-Butyl-4-cyano-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A suspension of 2-tert-butyl-4-cyano-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (85 mg, 0.28 mmol) and glycine (188 mg, 2.5 mmol) in 4.4 mL of 0.5 N NaOMe in methanol was heated at reflux temperature for 25 h. The reaction mixture was diluted with water, acidified with 1 N HCl, and extracted with ethyl acetate. The organic fraction was concentrated to a residue and purified by reverse phase chromatography on a C-18 column, eluting the desired product with a gradient of 10-90% acetonitrile in water+0.1% formic acid. The lyophilized material fractions provided 50 mg of white solid. MS (ESI−): m/z 333.0 (M−1).

reactant | 2-tert-butyl-4-cyano-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.28 mmol, 85 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C#N)N=C(S2)C(C)(C)C)O | C14H15N3O3S
reactant | glycine | 2.5 mmol, 188 mg | NCC(=O)O | C2H5NO2
reactant | HCl | 1 N | Cl | ClH
solvent | NaOMe | 0.5 N, 4.4 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | [(2-tert-Butyl-4-cyano-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 50 mg | C(C)(C)(C)C=1SC2=C(C(=NC(=C2O)C(=O)NCC(=O)O)C#N)N1 | C14H14N4O4S
